US04057418
EXAMPLE 1 -- Preparation of 2,5-dichloro-3-[(β-chloroethyl)-sulfonylmethylamino]-benzoic acid
20.6 g (0.1 mole) of 2,5-dichloro-3-aminobenzoic acid and 18.7 g (0.12 mole) of hydroxymethyl-(β-chloroethyl)-sulfone were suspended in 100 ml of ethylene chloride, 1 ml of concentrated sulfuric acid was added thereto and the mixture was stirred for 3 hours at 40° C. The mixture was then cooled and the product which had crystallized out was filtered off and recrystallized from acetonitrile. This gave 30.8 g (89% of theory) of 2,5-dichloro-3-[(β-chloroethyl)-sulfonylmethylamino]-benzoic acid in the form of colorless crystals of melting point 156° C (with decomposition).

reactant | 2,5-dichloro-3-aminobenzoic acid | 0.1 mole, 20.6 g | ClC1=C(C(=O)O)C=C(C=C1N)Cl | C7H5Cl2NO2
reactant | hydroxymethyl-(β-chloroethyl)-sulfone | 0.12 mole, 18.7 g | OCS(=O)(=O)CCCl | C3H7ClO3S
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethylene chloride | 100 ml | C(CCl)Cl | C2H4Cl2
product | 2,5-dichloro-3-[(β-chloroethyl)-sulfonylmethylamino]-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1NCS(=O)(=O)CCCl)Cl | C10H10Cl3NO4S
